US07807676B2
To a sealable flask containing methyl 2-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (0.070 g, 0.262 mmol) and 3-(3-(tributylstannyl)-1H-pyrazol-5-yl)pentan-3-ol (0.116 g, 0.262 mmol) was added tetrakis(triphenylphosphine)palladium(0) (0.060 g, 0.052 mmol). 1,4-Dioxane (5 ml) was added and the mixture was flushed with N2. The tube was sealed, and the mixture was heated to 115° C. After 16 h of heating, the mixture was cooled to rt and the solvent was removed under reduced pressure. The residue was diluted with MeOH and was filtered through a pad of celite to remove any solids. The solution was concentrated again under reduced pressure and the residue was dissolved in DMF and was purified by prep HPLC to give the product, methyl 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (0.073 g, 0.189 mmol, 72.2% yield) as an off-white solid. LCMS: m/e 387.19 (M+H)+, ret time 1.075 min (method 3).

reactant | methyl 2-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.262 mmol, 0.070 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)OC)=O)OC | C11H9ClN2O4
reactant | 3-(3-(tributylstannyl)-1H-pyrazol-5-yl)pentan-3-ol | 0.262 mmol, 0.116 g | C(CCC)[Sn](C1=NNC(=C1)C(CC)(CC)O)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.052 mmol, 0.060 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-Dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | methyl 2-(7-(5-(3-hydroxypentan-3-yl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.189 mmol, 0.073 g, 72.2% yield | OC(CC)(CC)C1=CC(=NN1)C=1N=CC(=C2C1NC=C2C(C(=O)OC)=O)OC | C19H22N4O5
